US09102614B2
Preparation of 4-(2-methoxyphenyl)-3-methyl-butyric acid:
A solution of 4-(2-methoxyphenyl)-3-methyl-butyric acid ethyl ester (24 mmol, crude from previous reaction) in THF (50 mL), EtOH (50 mL) and LiOH (1 M, 50 mL) was stirred at room temperature overnight. The reaction was acidified with 1 M HCl, and extracted with EtOAc. The combined extracts were washed with brine and dried over sodium sulfate. Concentration gave the desired product, which was used without further purification. LCMS-ESI+ (m/z): [M]+ calcd for C12H16O3: 208.11. Found: 208.86

reactant | 4-(2-methoxyphenyl)-3-methyl-butyric acid ethyl ester | 24 mmol | C(C)OC(CC(CC1=C(C=CC=C1)OC)C)=O | C14H20O3
reactant | HCl | 1 M | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | LiOH | 1 M, 50 mL | [Li+].[OH-]
product | 4-(2-methoxyphenyl)-3-methyl-butyric acid | COC1=C(C=CC=C1)CC(CC(=O)O)C | C12H16O3
